US05136034
Step 1: Preparation of 3-hydroxYmethylbenzaldehyde
To a solution of isophtalaldehyde (8 g) in ethanol (80 mL) at room temperature was added NaBH portion wise, until about 50% reaction by TLC. The reaction mixture was quenched with 25% ammonium acetate, extracted with ethyl acetate, which was washed with brine (2x), dried over sodium sulfate, filtered and evaporated to dryness. Purification of the residue by flash chromatography using 50% ether in hexane afforded the pure title compound.

reactant | isophtalaldehyde | 8 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-hydroxYmethylbenzaldehyde | OCC=1C=C(C=O)C=CC1 | C8H8O2
